US05840957
This example demonstrates the transesterification reaction of dimethyl terephthalate with 1,4-butanediol using lanthanum tris(acetylacetonate) hydrate as the transesterification catalyst (150 ppm La based on final polymer) to form bis(4-hydroxybutyl) terephthalate.

reactant | dimethyl terephthalate | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
reactant | 1,4-butanediol | C(CCCO)O | C4H10O2
product | bis(4-hydroxybutyl) terephthalate | C(C1=CC=C(C(=O)OCCCCO)C=C1)(=O)OCCCCO | C16H22O6
